US09388185B2
2-Chloro-4-(2-(3,5-dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-N,N-dimethylbenzamide
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 3-chloro-4-(dimethylcarbamoyl)phenylboronic acid (from Combi-Blocks). LCMS calculated for C25H26ClN4O3 (M+H)+: m/z=465.2. Found 465.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 3-chloro-4-(dimethylcarbamoyl)phenylboronic acid | ClC=1C=C(C=CC1C(N(C)C)=O)B(O)O | C9H11BClNO3
product | 2-Chloro-4-(2-(3,5-dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-N,N-dimethylbenzamide | ClC1=C(C(=O)N(C)C)C=CC(=C1)C1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C25H25ClN4O3
